### PR TITLE
feat(Algebra/WLocalization): fill sorries for `Stratification.Index` and `ProdStrata.map`

### PR DESCRIPTION
**Pull request by chrisflav**
Fill four `sorry` placeholders in the `Stratification.Index` / `ProdStrata` section of `Proetale/Algebra/WLocalization/Basic.lean`:

* `WLocalization.Stratification.Index.restrict.disjoint` and `union_eq`: the restriction of a disjoint union decomposition `F = F' ⨿ F''` to a subset `E ⊆ F`.
* `WLocalization.Stratification.Index.iUnion_stratum`: the strata `Z(E', E'')` cover `Spec A` (blueprint `lemma:subset-stratification`).
* `WLocalization.ProdStrata.mapsTo_map_specComap`: the transition map between stratification products sends `V(I_F)` to `V(I_E)` (blueprint `lemma:finite-stratification-map-closed`).

Two helper lemmas are introduced:

* `WLocalization.Generalization.map_mem_ideal_of_strata`: if `I ≤ I'` and `f ∣ f'`, the canonical map `Generalization f I → Generalization f' I'` sends the kernel `ideal f I` into the kernel `ideal f' I'`.
* `WLocalization.ProdStrata.map_apply`: the index-wise formula for the transition map between stratification products.

Adds `\leanok` to the corresponding blueprint proofs in `blueprint/src/chapters/local-structure.tex`.

## Test plan
- [x] `lake env lean Proetale/Algebra/WLocalization/Basic.lean` reports no new errors introduced by these changes; the remaining diagnostics are pre-existing on `master` (the `bijectiveOnStalks_algebraMap`/`indZariski` sorries downstream of this section).

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 1]
```diff
@@ -94,6 +94,49 @@ lemma exists_specializes_zeroLocus_ideal {f : A} (I : Ideal A)
...
+  rw [(toLocQuotient f I).commutes,
+    IsScalarTower.algebraMap_apply A (A ⧸ I) (Localization.Away (Ideal.Quotient.mk I f)),
+    IsLocalization.map_eq_zero_iff (Submonoid.powers (Ideal.Quotient.mk I f))]
+  refine ⟨?_, fun ⟨n, hn⟩ ↦ ⟨⟨_, n, rfl⟩, ?_⟩⟩
+  · rintro ⟨⟨_, n, rfl⟩, hc⟩
+    refine ⟨n, ?_⟩
+    rw [← Ideal.Quotient.eq_zero_iff_mem, map_mul, map_pow,
+      ← Ideal.Quotient.algebraMap_eq]
+    exact hc
+  · change Ideal.Quotient.mk I f ^ n * algebraMap A (A ⧸ I) a = 0
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Don't use `change`, but use the correct API lemma instead.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 2]
```diff
@@ -194,20 +261,43 @@ lemma ProdStrata.mem_zeroLocus_ideal_of_isClosed {E : Finset A} {x : PrimeSpectr
   have := hy.mem_closed hx (by simp)
   grind only [= Set.mem_singleton_iff]
 
+private lemma ProdStrata.locClosedSubset_subset_restrict {E F : Finset A} (h : E ⊆ F)
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]:
```suggestion
lemma ProdStrata.locClosedSubset_subset_restrict {E F : Finset A} (h : E ⊆ F)
```

**Review by chrisflav — COMMENTED** [review]
Also merge latest master into this branch.

**Review by chrisflav — COMMENTED** [review]
Remove all `change` and replace them by proper API lemmas.

**Comment by chrisflav** [comment]
Merge latest master into this branch.
